US06653473B2
7-Hydroxy-2-(3-hydroxypropyl)phenoxazin-3-one (35a)
The crude resazurin compound was suspended in a mixture of 200 mL of water and 50 mL of conc. NH4OH. Zinc dust (2.0 g) was added and the suspension was stirred for 20 min. The resultant purple mixture was filtered, the filtrate was vigorously stirred on air to oxidize the leuco resorufin, the product of partial over reduction. The reaction was acidified with acetic acid, the brown solid formed was collected by filtration washed with water and dried. The yield was 2.1 g. The material contained ˜50% of 2,3,4-trihydro-2H-pyrano[3,2-b]phenoxazin-9-one, product of intramolecular cyclization which had been carried over from the first step. The rest of the material was the desired title compound 35.

reactant | resazurin | C1=CC2=C(C=C1O)OC3=CC(=O)C=CC3=[N+]2[O-] | C12H7NO4
solvent | water | 200 mL | O | H2O
solvent | NH4OH | 50 mL | [NH4+].[OH-]
catalyst | Zinc | 2.0 g | [Zn] | Zn
product | 7-Hydroxy-2-(3-hydroxypropyl)phenoxazin-3-one | OC=1C=C2OC3=CC(C(=CC3=NC2=CC1)CCCO)=O | C15H13NO4
